Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hyperparathyroidism
 
Major Surgical or Invasive Procedure:
Exploration of right neck, removal of parathyroid
lesion proven by frozen section and right thyroid lobectomy

 
History of Present Illness:
The patient presented with hyperparathyroidism.Sestamibi 
suggested a right lower pole lesion as did ultrasound by Dr. 
___.

 
Past Medical History:
PMH: Hyperparathyroidism, hypercalcemia, osteopenia, HTN, 
Arthritis, Erectile disorder, Ventral Hernia, colonic polyp

PSH: Varicose Veins

 
Physical Exam:
VS:97.7 76 124/70 18 96% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, incision site 
c/d/i, no surrounding erythema or swelling
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: soft, nondistended, nontender, no rebound or guarding 
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 06:15AM BLOOD Calcium-9.4
___ 01:50PM BLOOD ___-18
___ 12:30PM BLOOD PTH-178*
___ 11:50AM BLOOD ___-141*
___ 09:31AM BLOOD ___-92*
___ 07:36AM BLOOD freeCa-1.___ with history of hyperparathyroidism, osteopenia and 
hypercalcemia, now s/p right parathyroidectomy and right 
thyroidectomy. The patient was admitted overnight for 
observation for persistent dizziness. POD 1, he received dose of 
Meclizine and his symptoms gradually improved. By mid morning, 
the patient was able to ambulate without any assistance and his 
vital signs remained stable. His diet was advanced to regular 
which was tolerated well and fluids were discontinued and he had 
good urine output. His surgical wound had no evidence of 
infection or hematoma. Postoperatively, his PTH levels decreased 
respectively and calcium level was normal. On POD 1,the patient 
was discharged home in good condition with follow-up 
instructions and verbalized good understanding. 
 
Medications on Admission:
___: amlodipine 10', atorvastatin 20', Vitamin D, Fish Oil, MVI
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amlodipine 10 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyperparathyroidism.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ overnight for observation following 
your surgery. You have adequate pain control and have tolerated 
a regular diet and may return home to continue your recovery. 
Monitor for signs and symptoms of low Calcium such as numbness 
or tingling around mouth/fingertips or muscle cramps in your 
legs. If you experience any of these signs or symptoms please 
call Dr. ___ for advice or if you have severe 
symptoms go to the emergency room. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You may take acetaminophen (Tylenol) 
as directed for pain, but do not exceed 4000 mg in one day. 
Please get plenty of rest, continue to walk several times per 
day as tolerated, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.
Thank you for allowing us to participate in your care.
Your ___ Team
 
Followup Instructions:
___